US04530978
(B2) Cyclohexyl N-vinylcarbamate
69 parts of vinyl isocyanate and 89.5 parts of ethyl acetate are initially taken in a reaction vessel and are heated at 40° C. A mixture of 110 parts of cyclohexanol, 89.5 parts of ethyl acetate and 0.02% of dibutyltin dilaurate as the catalyst is added in the course of one hour, after which the mixture is allowed to continue reacting for a further 2 hours at 40° C. A pale yellow solution is obtained, from which, on cooling, the reaction product separates out in the form of crystals. Content of blocked isocyanate groups: 11.7%.

reactant | vinyl isocyanate | C(=C)N=C=O | C3H3NO
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
reactant | dibutyltin dilaurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Cyclohexyl N-vinylcarbamate | C(=C)NC(OC1CCCCC1)=O | C9H15NO2
